US04687857
At 20° C., 150 g of 2-dichloromethyl-8-trifluoromethyl-4H-3,1-benzoxazine-4-one, 120 g of ethyl 3-(2-thiazolylamino)-3-oxo-propanoate and 1.5 liters of tetrahydrofuran were mixed together and stirred for 30 minutes and then, while maintaining the temperature at 20° C., 40 g of sodium hydroxide in flakes were added thereto. After stirring the mixture at 20° C. for two hours, it was poured into a mixture of 4.5 liters of water and 150 ml of concentrated hydrochloric acid and the mixture was stirred at 0° to +5° C. for 30 minutes. The crystals formed were separated, rinsed with water and dried to obtain 255 g of ethyl 2-[(2,2-dichloro-1-oxoethyl)-amino]-β-oxo-α-[(2-thiazolylamino)-carbonyl]-3-(trifluoromethyl)-benzene-propanoate melting at 90° C.

reactant | 2-dichloromethyl-8-trifluoromethyl-4H-3,1-benzoxazine-4-one | 150 g | ClC(C1=NC2=C(C(O1)=O)C=CC=C2C(F)(F)F)Cl | C10H4Cl2F3NO2
reactant | ethyl 3-(2-thiazolylamino)-3-oxo-propanoate | 120 g | S1C(=NC=C1)NC(CC(=O)OCC)=O | C8H10N2O3S
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | water | 4.5 liters | O | H2O
solvent | tetrahydrofuran | 1.5 liters | O1CCCC1 | C4H8O
product | ethyl 2-[(2,2-dichloro-1-oxoethyl)-amino]-β-oxo-α-[(2-thiazolylamino)-carbonyl]-3-(trifluoromethyl)-benzene-propanoate | 255 g | ClC(C(=O)NC1=C(C=CC=C1C(F)(F)F)C(C(C(=O)OCC)C(=O)NC=1SC=CN1)=O)Cl | C18H14Cl2F3N3O5S
